US08877760B2
A mixture of tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate (53 mg, 0.150 mmol), isothiazolo[3,4-b]pyridin-3-amine (29 mg, 0.0.192 mmol), Cs2CO3 (100 mg, 0.304 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (12 mg, 0.030 mmol) and Pd2dba3 (15 mg, 0.016 mmol) in dioxane (1 mL) was degassed with Ar, then was stirred at 110 C for 2 h. The mixture was concentrated in vacuo. The residue was dissolved in TFA (4 mL). After 20 min of stirring, excess of TFA was removed in vacuo. The residue was purified by HPLC to give 5-((1R,2S)-2-aminocyclohexylamino)-3-(isothiazolo[3,4-b]pyridin-3-ylamino)pyrazine-2-carbonitrile (36 mg).

reactant | tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate | 0.150 mmol, 53 mg | ClC1=C(N=CC(=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C#N | C16H22ClN5O2
reactant | isothiazolo[3,4-b]pyridin-3-amine | 29 mg | N=1SC(=C2C1N=CC=C2)N | C6H5N3S
reactant | Cs2CO3 | 0.304 mmol, 100 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.030 mmol, 12 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.016 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-((1R,2S)-2-aminocyclohexylamino)-3-(isothiazolo[3,4-b]pyridin-3-ylamino)pyrazine-2-carbonitrile | 36 mg | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C(=NC1)C#N)NC=1SN=C2N=CC=CC21 | C17H18N8S
